US04673746
2-chlororesorcinol dimethyl ether (22.0 g) and o-fluorobenzoyl chloride (20.2 g) are dissolved in 250 ml of dichloroethane, chilled in an ice bath and treated with AlCl3 (18.6 g). Fifteen minutes after the addition is complete, the reaction is heated to reflux for 30 minutes. It is poured into H2O and extracted with ethylacetate. Evaporation and trituration with hexane gives 3-chloro-2'-fluoro-2-hydroxy-4-methoxybenzophenone, mp 132°-133° C.

reactant | 2-chlororesorcinol dimethyl ether | 22.0 g | COC1=C(C(OC)=CC=C1)Cl | C8H9ClO2
reactant | o-fluorobenzoyl chloride | 20.2 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | AlCl3 | 18.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | H2O | O | H2O
solvent | dichloroethane | 250 ml | ClC(C)Cl | C2H4Cl2
product | 3-chloro-2'-fluoro-2-hydroxy-4-methoxybenzophenone | ClC=1C(=C(C(=O)C2=C(C=CC=C2)F)C=CC1OC)O | C14H10ClFO3
